US06069141
5-Acetamido-3-(4-azido-3-fluorophenyl)isoxazoline (277 mg) is combined with methyl propiolate (0.356 ml) in 3 ml benzene in a screw cap pressure tube under nitrogen. The reaction is warmed to 105° C. for 1 hour, is cooled to room temperature, and is washed into a recovery flask with ethyl acetate. The volatiles are removed in vucuo. The crude material is recrystallized from ethyl acetate to provide 252 mg (70%/) of 5-acetamido-3-(4-(4-carbomethoxy-1,2,3-triazol-1-yl)-3-fluorophenyl)isoxazoline as an off-white solid, mp 221° C.

reactant | 5-Acetamido-3-(4-azido-3-fluorophenyl)isoxazoline | 277 mg | C(C)(=O)NC1CC(=NO1)C1=CC(=C(C=C1)N=[N+]=[N-])F | C11H10FN5O2
reactant | methyl propiolate | 0.356 ml | C(C#C)(=O)OC | C4H4O2
solvent | benzene | 3 ml | C1=CC=CC=C1 | C6H6
product | 5-acetamido-3-(4-(4-carbomethoxy-1,2,3-triazol-1-yl)-3-fluorophenyl)isoxazoline | 252 mg, 70% | C(C)(=O)NC1CC(=NO1)C1=CC(=C(C=C1)N1N=NC(=C1)C(=O)OC)F | C15H14FN5O4
